US05744627
Crude methyl 4-azidomethylsalicylate was dissolved in methanol (750 mL) in a 2L Parr hydrogenation flask. Palladium on carbon catalyst (10% [w/w], 3.8 g) in water (25 mL) was added, followed by concentrated hydrochloric acid (35 mL). The flask was affixed to a Parr hydrogenator, and the mixture was shaken at room temperature under 40 psi of hydrogen for 16 hours. The reaction mixture was then filtered through a 0.45 mm nylon filter. The retained solid was then washed with methanol (150 mL), water (100 mL), and methanol again (150 mL). The combined filtrates were evaporated to dryness to afford a tan solid. This solid was dissolved in hot denatured ethanol (150 mL) and the solution was allowed to cool to room temperature. White crystals formed quickly. Finally, the mixture was then chilled for 16-18 hours at 4° C. to complete crystallization. The solid was filtered, washed with a little cold ethanol (50 mL) and thendiethyl ether (150 mL), and dried in vacuo over potassium hydroxide pelletsto afford 51.5 g (65% yield based on methyl 4-bromomethylsalicylate) of methyl 4-aminomethylsalicylate hydrochloride (m.p. 225°-227°C., open capillary, uncorrected).

reactant | methyl 4-azidomethylsalicylate | N(=[N+]=[N-])CC=1C=C(C(C(=O)OC)=CC1)O | C9H9N3O3
reactant | hydrochloric acid | 35 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 750 mL | CO | CH4O
catalyst | Palladium on carbon | 3.8 g | [Pd] | Pd
solvent | water | 25 mL | O | H2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | methyl 4-aminomethylsalicylate hydrochloride | 51.5 g, 65% yield | Cl.NCC=1C=C(C(C(=O)OC)=CC1)O | InChI=1S/C9H11NO3.ClH/c1-13-9(12)7-3-2-6(5-10)4-8(7)11;/h2-4,11H,5,10H2,1H3;1H
